US07125901B2
To a solution of tert-butyl 2-[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]-2-oxoethylcarbamate (100 mg) in ethyl acetate (1 ml) was added 4N hydrogen chloride in ethyl acetate (1 ml), and the mixture was stirred at ambient temperature for 103 hours. The precipitated solid was filtered and washed with ethyl acetate to give N-(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)-2-aminoacetamide hydrochloride (80 mg).

reactant | tert-butyl 2-[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]-2-oxoethylcarbamate | 100 mg | C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)NC(CNC(OC(C)(C)C)=O)=O | C20H26N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)-2-aminoacetamide hydrochloride | 80 mg | Cl.C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)NC(CN)=O | InChI=1S/C15H18N4O2S.ClH/c1-10(20)17-15-19-13(9-22-15)7-4-11-2-5-12(6-3-11)18-14(21)8-16;/h2-3,5-6,9H,4,7-8,16H2,1H3,(H,18,21)(H,17,19,20);1H
